US07037938B2
A solution of methyl 4′-[2-(benzylamino)ethyl]-1,1′-biphenyl-4-carboxylate (460 mg), and 2-chloro-5-[(2R)-2-oxiranyl]pyridine (207 mg) in ethanol (10 ml) was refluxed for 18 hours. The mixture was evaporated in vacuo. The residue was purified by column chromatography on silica gel (chlorofor:methanol=100:1) to give methyl 4′-[2-[N-benzyl-N-[(2R)-2-(6-chloro-3-pyridyl)-2-hydroxyethyl]amino]ethyl]-1,1′-biphenyl-4-carboxylate (470 mg) as a colorless foam.

reactant | methyl 4′-[2-(benzylamino)ethyl]-1,1′-biphenyl-4-carboxylate | 460 mg | C(C1=CC=CC=C1)NCCC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC | C23H23NO2
reactant | 2-chloro-5-[(2R)-2-oxiranyl]pyridine | 207 mg | ClC1=NC=C(C=C1)[C@H]1OC1 | C7H6ClNO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | methyl 4′-[2-[N-benzyl-N-[(2R)-2-(6-chloro-3-pyridyl)-2-hydroxyethyl]amino]ethyl]-1,1′-biphenyl-4-carboxylate | 470 mg | C(C1=CC=CC=C1)N(C[C@H](O)C=1C=NC(=CC1)Cl)CCC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC | C30H29ClN2O3
